US07544835B2
c) 3-{3-[2-(2,4-Dichlorophenoxy)acetylamino]-4-methoxyphenyl}-2-isopropoxypropanoic acid
30 mg of Ethyl 3-(3-amino-4-methoxyphenyl)-2-isopropoxypropanoate and 20 mg of 2,4-dichlorophenoxyacetic acid were dissolved in 0.5 ml of tetrahydrofuran, and 30 mg of carbonyldiimidazole and 0.05 ml of triethylamine were added, and the mixture was stirred at 50° C. for 4 hours. The reaction mixture was then partitioned between water and ethyl acetate, and the organic layer was concentrated. The residue was dissolved in 0.6 ml of ethanol, and 0.12 ml of 5N sodium hydroxide was added, and the mixture was stirred at room temperature for 1 hour. The reaction solution was neutralized with dilute hydrochloric acid, and extracted with ethyl acetate. The organic layer was concentrated, and the residue was purified by HPLC using a reverse-phase column and a water-acetonitrile-trifluoroacetic acid elution solvent, to give 3.4 mg of the title compound.

reactant | Ethyl 3-(3-amino-4-methoxyphenyl)-2-isopropoxypropanoate | 30 mg | NC=1C=C(C=CC1OC)CC(C(=O)OCC)OC(C)C | C15H23NO4
reactant | 2,4-dichlorophenoxyacetic acid | 20 mg | ClC1=C(OCC(=O)O)C=CC(=C1)Cl | C8H6Cl2O3
reactant | carbonyldiimidazole | 30 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | triethylamine | 0.05 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
product | 3-{3-[2-(2,4-Dichlorophenoxy)acetylamino]-4-methoxyphenyl}-2-isopropoxypropanoic acid | 3.4 mg | ClC1=C(OCC(=O)NC=2C=C(C=CC2OC)CC(C(=O)O)OC(C)C)C=CC(=C1)Cl | C21H23Cl2NO6
